US04803216
(a) 4,5-Dihydro-N-(2-methoxyphenyl)-1-(4-toluenesulphonyl)-1H-pyrazol-3-amine
A mixture of 4,5-dihydro-1-(4-toluenesulphonyl)-1H-pyrazol-3-amine (8.08 g) (Organic Synthesis 48,8, (1968)), o-anisidine (8.0 g) and glacial acetic acid (80 ml) was heated on a steam bath for 4 hours. The reaction mixture was cooled, filtered and washed with ether to give the sub-title product, 7.6 g, mp 176°-9°.

reactant | 4,5-dihydro-1-(4-toluenesulphonyl)-1H-pyrazol-3-amine | 8.08 g | C1(=CC=C(C=C1)S(=O)(=O)N1N=C(CC1)N)C | C10H13N3O2S
reactant | o-anisidine | 8.0 g | COC=1C(=CC=CC1)N | C7H9NO
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
product | 4,5-Dihydro-N-(2-methoxyphenyl)-1-(4-toluenesulphonyl)-1H-pyrazol-3-amine | COC1=C(C=CC=C1)NC1=NN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C17H19N3O3S
